US08809267B2
2-[2-Ethyl-1-(1-propyl-cyclopropoxysulfonylaminocarbonyl)-cyclopropylcarbamoyl]-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared according to the method presented in Example 27. Treatment of 2-(1-carboxy-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 mmol) occurred under the same conditions, adjusted for scale with the exception of utilizing sulfamic acid 1-propyl-cyclopropyl ester to afford acylsulfamate (200 mg, 61%): LCMS found 660.9 [M+H]+.

reactant | 2-(1-carboxy-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.50 mmol | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)CC)C(=O)O)=O | C26H33N3O7
reactant | sulfamic acid 1-propyl-cyclopropyl ester | C(CC)C1(CC1)OS(N)(=O)=O | C6H13NO3S
product | 2-[2-Ethyl-1-(1-propyl-cyclopropoxysulfonylaminocarbonyl)-cyclopropylcarbamoyl]-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)CC)C(=O)NS(=O)(=O)OC1(CC1)CCC)=O | C32H44N4O9S
